Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Tequin / amoxicillin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug) / aspirin
 
Attending: ___.
 
Chief Complaint:
1. Diabetes mellitus type 2.
2. Morbid obesity.
3. Hyperlipidemia.
4. Asthma.

 
Major Surgical or Invasive Procedure:
1. Laparoscopic Roux-en-Y gastric bypass.
2. Endoscopy.

 
History of Present Illness:
___ woman with longstanding morbid obesity refractory to 
attempts at weight loss by nonoperative means.  Her preoperative 
weight is 315.3 pounds. Given her height, this translates to a 
body mass index of 54.1 kg/m2.  She has been considering weight 
loss surgery for years. She prefers gastric bypass sighting 
longer term outcomes.  She does not like the idea of a foreign 
body aspect of the gastric band.  Her previous unsuccessful 
attempts at weight loss have included Weight Watchers, Slim 
Fast, over-the-counter green tea and phentermine as well as 
24-day AdvoCare Challenge.  Using the 24-day AdvoCare Challenge 
and changes in diet, she recently has been able to lose 15 
pounds since ___. She suffers from comorbidities including 
diabetes mellitus type
2, hyperlipidemia, asthma, depression and knee pain.  She has 
been evaluated by our Multidisciplinary Bariatric Service and 
deemed a suitable candidate in accordance with National 
Institutes of Health Consensus Statement. She presents for 
Laparoscopic Roux-en-Y gastric bypass.

 
Past Medical History:
Past Medical History:
1. Progesterone autoimmune dermatitis.
2. Asthma; it has been greater than a year since she has
required steroids.  She quit smoking eight weeks ago and her 
asthma has dramatically improved.
3.  Depression.
4.  Migraine headaches, occasional.
5.  Lactose intolerance.
6.  Infertility.
7.  Borderline diabetes mellitus type 2.
8.  Hyperlipidemia.

Past Surgical History:  Tonsillectomy.

 
Social History:
___
Family History:
Paternal grandmother with breast cancer, paternal aunt with 
thyroid cancer, grandmother with GYN cancer, mother with asthma 
and question of COPD. 

 
Physical Exam:
Vitals: VSS
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, incisions c/d/i, no rebound 
or guarding Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
___ 11:51AM   HCT-42.2
___ 05:02AM BLOOD Hct-37.0
___ 02:48PM BLOOD Hct-35.9*
___ 09:15AM BLOOD Hct-34.9*

Upper GI (___):
No evidence of leak from the gastrojejunostomy anastomosis

KUB (___):
Gastric outlet obstruction with contrast pooling in gastric 
remnant and esophagus may be risk of aspiration 

KUB (___):
Interval movement of contrast out of the esophagus and into the 
bowel distally. There is still contrast pooling within the 
stomach. 

KUB (___):
Less contrast within the stomach

 
Brief Hospital Course:
Ms ___ presented to ___ holding at ___ on ___ for 
Laparoscopic Roux-en-Y gastric bypass. She tolerated the 
procedure well without  complications (Please see operative note 
for further details).  After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management. 

Neuro: The patient received morphine PCA with good effect and 
adequate pain control. When tolerating oral intake, the patient 
was transitioned to oral pain medications.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. 

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI: Post-operatively, the patient was made NPO with IV  fluids. 
An upper GI study was performed on POD#1 which revealed no leak. 
Initially she was started on a  Bariatric Stage 1 diet but 
because the contrast had not passed she was reverted back to 
NPO. On POD#2 a KUB was done which revealed passage of contrast 
this was confirmed by KUB on POD#3. Diet was again advanced on 
POD#3, which was well tolerated. Patient's intake and  output 
were closely monitored, and IV fluid was adjusted when 
necessary. Electrolytes were routinely followed, and repleted 
when necessary. 

GU: The patient had a foley catheter placed in the OR, which was 
removed on POD#1. After the foley was removed, the patient 
voided without difficulty. 

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection, of which there were 
none.

Hematology: The patient's complete blood count was examined 
routinely. JP appeared sanguinous on POD#2 serial hematocrits 
were ordered and found to be stable.

Skin: The incision sites were well approximated and intact.

Prophylaxis: The patient received subcutaneous heparin. Patient 
wore venodyne boots and was encouraged to get up and ambulate as 
early as possible following surgery

On ___, the patient was discharged to home. At discharge, 
she was tolerating a Satge III bariatric diet, passing flatus, 
stooling, voiding, and ambulating independently. She will 
follow-up in clinic. This information was communicated to the 
patient directly prior to discharge with verbalized 
understanding and agreement.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
2. Beclomethasone Dipro. AQ (Nasal) 80 mcg Other BID 
3. Loratadine 10 mg PO DAILY 
4. Vitamin D 1000 UNIT PO 2X/WEEK (MO,TH) 
5. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN asthma 
6. Albuterol Inhaler ___ PUFF IH Q6H:PRN asthma 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN asthma 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN asthma 
3. Beclomethasone Dipro. AQ (Nasal) 80 mcg Other BID 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
5. Loratadine 10 mg PO DAILY 
6. Vitamin D 1000 UNIT PO 2X/WEEK (MO,TH) 
7. Acetaminophen 325-650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg/20.3 mL 1 solution(s) by mouth every 
six (6) hours Refills:*0
8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
9. Ursodiol 300 mg PO BID 
RX *ursodiol [Actigall] 300 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
10. OxycoDONE Liquid 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg/5 mL 1 by mouth every four (4) hours 
Refills:*0
11. Ranitidine (Liquid) 150 mg PO BID 
RX *ranitidine HCl 15 mg/mL 10 ml by mouth twice a day 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Diabetes mellitus type 2.
2. Morbid obesity.
3. Hyperlipidemia.
4. Asthma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

General Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___